US09227918B2
To a solution of 2.02 g (10.0 mmol) of 4-(2-aminoethyl)benzoic acid hydrochloride in 25 mL of methanol was added 1.5 mL of H2SO4. The mixture was heated to reflux and became a homogeneous solution after 1 h. The solution was refluxed for about 16 h, cooled to 22° C. and concentrated to about 10 mL by evaporation. The solution was diluted with 100 mL of water, made basic with 1 N NaOH and extracted with 100 mL of dichloromethane (DCM). The aqueous layer was back-extracted with DCM (4×100 mL). The combined extracts were dried (Na2SO4) and evaporated to give methyl 4-(2-aminoethyl)benzoate as a colorless oil. The material was used directly in the subsequent transformation.

reactant | 4-(2-aminoethyl)benzoic acid hydrochloride | 10.0 mmol, 2.02 g | Cl.NCCC1=CC=C(C(=O)O)C=C1
reactant | H2SO4 | 1.5 mL | OS(=O)(=O)O | H2O4S
reactant | methanol | 25 mL | CO | CH4O
product | methyl 4-(2-aminoethyl)benzoate | NCCC1=CC=C(C(=O)OC)C=C1 | C10H13NO2
